US04269977
A solution of 10 g of 3-formyl-7β-phenylacetylamino-ceph-2-em-4α-carboxylic acid in 250 ml of a 4:1 mixture of dioxane and methanol is treated with a solution of 1.5 mol equivalents of diphenyldiazomethane in cyclohexane. After 2 hours at room temperature, the red-violet solution is evaporated to dryness under reduced pressure. The residue is dissolved in hot methylene chloride; the solution is diluted with cyclohexane whilst warm, and 3-formyl-7βphenylacetylamino-ceph-2-em-4α-carboxylic acid diphenylmethyl ester is obtained in practically quantitative yield in the form of fine colourless felted needles, melting point 175.5°-176° C. (uncorrected, decomposition); [α]D20 =+513°±1° (c=1,084 in chloroform); thin layer chromatogram (silica gel): Rf=0.35 (system: toluene/acetone, 80:20) and Rf=0.58 (system: toluene/acetone 65:35); ultraviolet absorption spectrum (in 95% ethanol): λmax =289 mμ (ε=20,200) and λmin =245 mμ (ε= 2,100); infrared absorption spectrum: characteristic bands at 2.92μ, 3.53μ, 5.59μ, 5.72μ, 5.91μ, 6.34μ, 6.61μ and 6.67μ (in methylene chloride) and at 3.00μ, 5.63μ, 5.76μ, 5.95μ (double band), 5.99μ, 6.07μ and 6.58μ (in mineral oil).

reactant | 3-formyl-7β-phenylacetylamino-ceph-2-em-4α-carboxylic acid | 10 g | C(=O)C1=CS[C@H]2N([C@H]1C(=O)O)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C16H14N2O5S
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | methanol | CO | CH4O
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 3-formyl-7βphenylacetylamino-ceph-2-em-4α-carboxylic acid diphenylmethyl ester | quantitative yield | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)[C@H]1C(=CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)C=O | C29H24N2O5S
